US07807700B2
5-((1-Acetylpiperidin-4-yl)methyl)-2-((2S)-bicyclo[2.2.1]heptan-2-ylamino)-5-methylthiazol-4(5H)-one
A mixture of 2-((2S)-bicyclo[2.2.1]heptan-2-ylamino)-5-methyl-5-(piperidin-4-ylmethyl)thiazol-4(5H)-one (130 mg, 0.41 mmol), acetic anhydride (Aldrich, 83 mg, 0.81 mmol) and diisopropylethylamine (157 mg, 1.22 mmol) in CH2Cl2 (3 mL) was stirred at room temperature for ca. 18 h. Brine was then added, and the mixture was extracted with CH2Cl2 (4×60 mL). The combined organic extracts were washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. Flash column chromatography (silica gel, 0-3.5% MeOH in CH2Cl2) afforded the title compound as a colorless thin film (116 mg). MS (ESI, pos. ion) m/z: 364 (M+H).

reactant | 2-((2S)-bicyclo[2.2.1]heptan-2-ylamino)-5-methyl-5-(piperidin-4-ylmethyl)thiazol-4(5H)-one | 0.41 mmol, 130 mg | C12[C@H](CC(CC1)C2)NC=2SC(C(N2)=O)(CC2CCNCC2)C | C17H27N3OS
reactant | acetic anhydride | 0.81 mmol, 83 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | diisopropylethylamine | 1.22 mmol, 157 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | Brine | [Cl-].[Na+].O
product | 5-((1-Acetylpiperidin-4-yl)methyl)-2-((2S)-bicyclo[2.2.1]heptan-2-ylamino)-5-methylthiazol-4(5H)-one | C(C)(=O)N1CCC(CC1)CC1(C(N=C(S1)N[C@@H]1C2CCC(C1)C2)=O)C | C19H29N3O2S
